US09216975B2
Preparation of 1-(2-chloro-4-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea
Commercially available 2-chloro-4-trifluoromethylbenzylamine (572 mg, 2.7 mmol) was dissolved in 20 ml of AcOEt and at 0° C. triphosgene (809 mg, 2.7 mmol) was added to the solution. The mixture was warmed at 80° C. for 4 hours then evaporated and dissolved in 5 ml of DMF. The solution of the isocyanate was added dropwise to a solution in DMF (5 ml) of compound 1b (270 mg, 1.8 mmol) and the mixture was warmed at 80° C. for 8 hours. (TLC AcOEt). The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by chromatographic column gave 70 mg of a white solid. Yield=10% 1HNMR (DMSO, 400 MHz) δ 4.45 (2H, d, J=6 Hz), 6.97 (2H, d, J=4.4 Hz), 7.07 (2H, m), 7.63 (1H, d, J=8 Hz), 7.74 (2H, d), 7.86 (1H, s), 8.61 (1H, bs), 10.90 (1H, bs); [M+1] 386.6 (C16H11ClF3N3O3 requires 385.7).

reactant | 2-chloro-4-trifluoromethylbenzylamine | 2.7 mmol, 572 mg | ClC1=C(CN)C=CC(=C1)C(F)(F)F | C8H7ClF3N
reactant | triphosgene | 2.7 mmol, 809 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloro-4-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea | 70 mg, Yield=10% | ClC1=C(CNC(=O)NC2=CC=CC3=C2NC(O3)=O)C=CC(=C1)C(F)(F)F | C16H11ClF3N3O3
